US04297439
(b) 2-ethylmercapto cyclohexane thiol
154 g (0.96 mole) of 3-ethyl mercapto cyclohexanol, 76 g of thiourea (1 mole) and 150 ml of concentrated hydrochloric acid were kept under reflux for 3 hours. The isothiuronium salt solution was separated off from oily secondary products in a separation funnel and then heated with 70 g of NaOH (1.75 mole) in 100 ml of water for 1 hour in a steam bath. Carbon dioxide was added for neutralisation, the mercaptan phase was separated off in the separation funnel and fractionated in vacuo.

reactant | 3-ethyl mercapto cyclohexanol | 0.96 mole, 154 g | C(C)C1CC(CCC1)(O)S | C8H16OS
reactant | thiourea | 1 mole, 76 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | NaOH | 1.75 mole, 70 g | [OH-].[Na+]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | water | 100 ml | O | H2O
product | 2-ethylmercapto cyclohexane thiol | C(C)SC1C(CCCC1)S | C8H16S2
